US09126970B2
Step a): 2-(3-Nitrophenyl)dibenzothiophene
15.0 g of 2-bromodibenzothiophene (57.0 mmol) and 14.3 g of 2-nitrophenylboronic acid (85.5 mmol) are dissolved in 400 ml of toluene and degassed. 370 ml of a degassed 2 M K2CO3 and 1.6 g of Pd(PPh3)4 (1.4 mmol) are added. The reaction mixture is stirred at 80° C. for 48 h under a protective-gas atmosphere. Further toluene is added to the cooled solution, which is washed a number of times with water, dried and evaporated. The residue in the form of a yellowish oil is employed in the subsequent reaction without further purification. The yield is 16.9 g (55.4 mmol, 89%).

reactant | 2-bromodibenzothiophene | 57.0 mmol, 15.0 g | BrC1=CC2=C(SC3=C2C=CC=C3)C=C1 | C12H7BrS
reactant | 2-nitrophenylboronic acid | 85.5 mmol, 14.3 g | [N+](=O)([O-])C1=C(C=CC=C1)B(O)O | C6H6BNO4
reactant | K2CO3 | 2 M | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.4 mmol, 1.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-Nitrophenyl)dibenzothiophene | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC2=C(SC3=C2C=CC=C3)C=C1 | C18H11NO2S
